US07919519B2
5-(1-Benzhydrylazetidin-3-yl)-2H-tetrazole (step 1 in Scheme A-8)
1-Benzhydrylazetidine-3-carbonitrile (2.48 g, 10 mmol), trimethylsilyl azide (2.30 g, 20 mmol) and dibutyltin oxide (498 mg, 2.0 mmol) were dissolved in toluene (20 mL) and heated to reflux for 32 h. The reaction mixture was then cooled to room temperature and applied directly to ISCO system with 10% methanol in dichloromethane to give the product. 1H NMR (400 MHz, CDCl3) δ 7.54 (m, 4H), 7.31 (m, 6H), 5.11 (s, 1H), 4.47 (m, 1H), 4.05 (t, J=7.2 Hz, 2H), 3.91 (t, J=7.2 Hz, 2H). MS (ESI) m/z: Calculated: 291.15; Observed: 291.90 (M++1).

reactant | 1-Benzhydrylazetidine-3-carbonitrile | 10 mmol, 2.48 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)C#N | C17H16N2
reactant | trimethylsilyl azide | 20 mmol, 2.30 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | dibutyltin oxide | 2.0 mmol, 498 mg | C(CCC)[Sn](CCCC)=O
reactant | methanol | CO | CH4O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(1-Benzhydrylazetidin-3-yl)-2H-tetrazole | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)C=1N=NNN1 | C17H17N5
